data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]S(=O)(=O)O.CC1=C2C(=C(C3=C1C=CN=C3)C)C4=CC(=CC=C4N2C)[O:10]C(O)OC>>[H:20][O+:10](C1=CC=C2C(=C1)C3=C(C4=C(C=CN=C4)C(=C3N2C)C)C)C(O)OC.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC[C:20](=[O:21])CCC1(C(=O)CCCC1=O)C.C1=CC=C(C=C1)CC(C(=O)O)[NH2:10].CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.C1=CC=C(C=C1)CC(C(=O)O)[NH3+]>>CC[C:20](CCC1(C(=O)CCCC1=O)C)([NH2+:10]C(CC2=CC=CC=C2)C(=O)O)[O-:21].CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.C1=CC=C(C=C1)CC(C(=O)O)[NH3+] 10=20;20,21=21
C1=CC=C(C=C1)CNC(=O)C(CC2=CC=C(C=C2)OCC3=CC=CC=C3)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>C1=CC=C(C=C1)CNC(=O)C(CC2=CC=C(C=C2)OCC3=CC=CC=C3)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
CC(=O)OC(=O)CC[C:20](C#N)([O-:10])[Cl:21]>>CC(=O)OC(=O)CC[C:20](=[O:10])C#N.[Cl-:21] 10=20;20,21=21
CCN(CC)C1=CC2=C(C=C1)C=C(O2)C(=O)C3=CC=C(C=C3)N4CC[NH:10]CC4.CC1=CC=C(C=C1)[S:20](=O)(=[O:21])Cl.C1=CC=NC=C1>>CCN(CC)C1=CC2=C(C=C1)C=C(O2)C(=O)C3=CC=C(C=C3)N4CC[NH+:10](CC4)[S:20](=O)(C5=CC=C(C=C5)C)([O-:21])Cl.C1=CC=NC=C1 10=20;20,21=21
CCCCCC1CC(C([CH:20](C1)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)OC(=[O:10])C)C>>CCCCCC1CC(C2[CH:20](C1)[O+:10]=C(O2)C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
C1=CC=C(C=C1)[CH2:20][Br:21].[CH-:10](C#N)C#N>>C1=CC=C(C=C1)[CH2:20][CH:10](C#N)C#N.[Br-:21] 10=20;20,21=21
C[OH+:21][CH:20](N)[NH2:10].[Cl-]>>C[OH:21].[CH:20](=[NH2+:10])N.[Cl-] 10=20;20,21=21
CCC(CC1CCCCC1)C=[O:10].CC(C)(C)OC(=C)O[Si](C)(C)C.Cl[Ti:20](Cl)(Cl)Cl>>CCC(CC1CCCCC1)C=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl.CC(C)(C)OC(=C)O[Si](C)(C)C 10=20
[CH:11]1=[CH:10]OC(=C1)C#N.O[S+:20](=O)=O>>C1=C(O[CH:10]([CH+:11]1)[S:20](=O)(=O)O)C#N 10,11=10,20
[H:20][C:21]12CCC[C:22]1=[N+:23]3CCC4=C(C3CC2=O)C=CC(=C4)OC.CC(C)[O-:10].C(=O)(C(F)(F)F)O.O>>[H:20][O:10]C(C)C.COC1=CC2=C(C=C1)C3CC(=O)[C:21]4=[C:22]([N:23]3CC2)CCC4.C(=O)(C(F)(F)F)O.O 10=20;22,23=23;20,21=21,22
[B:20](Br)(Br)Br.CCN1CCC23C4C(=O)CCC2(C1CC5=C3C(=C(C=C5)[O:10]C)O4)O>>[B-:20]([O+:10](C)C1=C2C3=C(CC4C5(C3(CCN4CC)C(O2)C(=O)CC5)O)C=C1)(Br)(Br)Br 10=20,
[H:20][O:21]C(CC(C)C)C1=CC=CC=C1.[H:10][Na:11]>>CC(C)CC(C1=CC=CC=C1)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[H:20][CH:21](C)[N+](=O)[O-].[OH-:10]>>[H:20][OH:10].C[CH-:21][N+](=O)[O-] 10=20;20,21=21
[H:20][CH:21](CCCC[O-])[CH:22]=[O:23].[OH-:10]>>[H:20][OH:10].C(CC[O-])C[CH:21]=[CH:22][O-:23] 10=20;22,23=23;20,21=21,22
CC[OH:10].C1=CC=C(C=C1)C([C:20](=[OH+:21])O)O.OS(=O)(=O)[O-]>>CC[OH+:10][C:20](C(C1=CC=CC=C1)O)(O)[OH:21].OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21]C(C)CCC.[H:10][Na:11]>>CCCC(C)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)C(F)(F)F.CCOC(=O)CCC(=[O:10])COC1=C(C2=C(C=CC=C2)C(=C1)C)OC>>[H:20][O+:10]=C(CCC(=O)OCC)COC1=C(C2=C(C=CC=C2)C(=C1)C)OC.C(F)(F)(F)S(=O)(=O)[O-:21] 10=20;20,21=21
CCO[C:20](=[NH2+:21])C1(CCC(C(C1CC(=O)C)(C(=O)OCC)C(=O)OCC)C)C#N.[OH2:10].[OH3+].[Cl-]>>CCOC(=O)C1(C(CCC(C1CC(=O)C)(C#N)[C:20]([NH2:21])([OH2+:10])OCC)C)C(=O)OCC.[OH3+].[Cl-] 10=20;20,21=21
[H:20][O+:21](C)C(C)NCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCNC(C)[O:21]C 10=20;20,21=21
CC12CCCC=C1[CH:10]=[C:11](CC2)[N:12]3CCCC3.C=C[CH2:20][Br:21]>>CC12CCCC=C1[CH:10]([C:11](=[N+:12]3CCCC3)CC2)[CH2:20]C=C.[Br-:21] 10,11=10,20;20,21=21;12=11
CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(=CC1CC(=C)CC(O1)CC[OH:10])Br.C1=CC=C(C=C1)N2C(=NN=N2)[S-]>>CCOC(=O)NN(C(=O)OCC)[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH+:10]CCC4CC(=C)CC(O4)C=C(C)Br.C1=CC=C(C=C1)N2C(=NN=N2)[S-] 10=20,
CC(=O)CC[CH:20]=[O+:21]CC[OH:10]>>CC(=O)CC[CH:20]1[OH+:10]CC[O:21]1 10=20;20,21=21
C[C:10](=[C:11](NC)[O-:12])Br.[Br:20][Br:21]>>C[C:10]([C:11](=[O:12])NC)(Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12=11
C(=[NH:10])N.[CuH2:20]>>C(=[NH+:10][CuH2-:20])N 10=20,
[H:20][S+:21](CC)CC=C(N(CC)CC)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCN(CC)C(=CC[S:21]CC)O 10=20;20,21=21
C(CCl)[C:20]([O-:10])([O:21]S(=O)Cl)Cl>>C(CCl)[C:20](=[O:10])Cl.[O-:21]S(=O)Cl 10=20;20,21=21
[H:20][N:21](N=CC1=CC=C(C=C1)OC)S(=O)(=O)C2=CC=C(C=C2)C.CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.CC1=CC=C(C=C1)S(=O)(=O)[N-:21]N=CC2=CC=C(C=C2)OC 10=20;20,21=21
C1COCC[NH:10]1.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>C1COCC[NH+:10]1[CH2:20]C2=CC=C(C=C2)C#N.[Br-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C=CC(=[O:10])N>>[H:20][O+:10]=C(C=C)N.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC1CC[C:20](=[O:21])C1(CCC#C)CC([C:11](=[CH2:10])[O-:12])[Si](C)(C)C.CO.O[K]>>CC1CC[C:20]2(C1(CC([C:11](=[O:12])[CH2:10]2)[Si](C)(C)C)CCC#C)[O-:21].CO.O[K] 10,11=10,20;20,21=21;12=11
CCC[NH2:10].C1=CC=C(C=C1)[CH2:20][Cl:21]>>CCC[NH2+:10][CH2:20]C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC(C)([O-:10])OC(=O)CCC=O>>[H:20][O:10]C(C)(NCC)OC(=O)CCC=O.OS(=O)(=O)[O-:21] 10=20;20,21=21
CN[C:20]1(OCCC[O:21]1)[O-:10]>>CN[C:20](=[O:10])OCCC[O-:21] 10=20;20,21=21
[H:20][CH:21]([C:22](=[O:23])OC)C(=O)OCC1=CC=CC=C1.[Li][O:12]/[C:11](=[CH:10]\C(=O)OC)/OCC1=CC=CC=C1>>[H:20][CH:10](C(=O)OC)[C:11](=[O+:12][Li])OCC1=CC=CC=C1.CO[C:22](=[CH:21]C(=O)OCC1=CC=CC=C1)[O-:23] 10,11=10,20;12=11;20,21=21,22;22,23=23
